US06049009
Preparation of (E)-4-phenylthio-3-buten-2-one
To a solution of (E)-4-methoxy-3-buten-2-one (purity 90%, 5.66 ml, 49.9 mmol) and thiophenol (5.13 ml, 49.9 mmol) in benzene (60 ml) was added p-toluene 25 sulfonic acid-monohydrate (30 mg, 0.16 mmol), followed by heating while stirring on an oil bath at 55° C. for 30 minutes. After ice cooling, an aqueous saturated sodium hydrogen carbonate solution was added thereto, followed by extracting with cyclohexane 3 times. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution twice and with saturated brine, followed by drying with anhydrous magnesium sulfate. After concentrating under a reduced pressure, the residue was treated with the column chromatography (190 g, n-hexane:ethyl acetate=10:1). After evaporated under a reduced pressure, the titled compound was recrystallized from n-hexane-n-nonane to obtain as a colorless crystalline.

reactant | (E)-4-methoxy-3-buten-2-one | 49.9 mmol, 5.66 ml | CO/C=C/C(C)=O | C5H8O2
reactant | thiophenol | 49.9 mmol, 5.13 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | (E)-4-phenylthio-3-buten-2-one | C1(=CC=CC=C1)S/C=C/C(C)=O | C10H10OS
